US07622583B2
To a solution of N-(2-bromo-5-methyl-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (367 mg, 0.775 mmol) in THF (2 mL) under nitrogen atmosphere at 0° C. was added dropwise isopropylmagnesium chloride (2 M solution in THF, 0.94 mL, 1.866 mmol). The mixture was then stirred for 30 min at 0° C. followed by the addition of a solution of 2-(dimethylamino-methyleneamino)-N-methoxy-N-methyl-isonicotinamide (349 mg, 1.47 mmol) in THF (1 mL) at 0° C. The mixture was stirred at room temperature for 6 hours, quenched with saturated aqueous NH4Cl solution (5 mL) and extracted with EtOAc (2×25 mL). Combined organic layers were washed with saturated aqueous NH4Cl solution (25 mL), brine (25 mL), dried (anhydrous Na2SO4) and concentrated under reduced pressure. Obtained residue was column purified (SiO2, 50% EtOAc-hexanes) to obtain 4-chloro-N-{2-[2-(dimethylamino-methyleneamino)-pyridine-4-carbonyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzene sulfonamide (230 mg) in 52% yield. ESMS m/z (relative intensity): 570.1 (M+H)+ (100).

reactant | N-(2-bromo-5-methyl-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.775 mmol, 367 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)C | C15H13BrClF3N2O3S
reactant | isopropylmagnesium chloride | 1.866 mmol, 2 M, 0.94 mL | C(C)(C)[Mg]Cl
reactant | 2-(dimethylamino-methyleneamino)-N-methoxy-N-methyl-isonicotinamide | 1.47 mmol, 349 mg | CN(C)C=NC=1C=C(C(=O)N(C)OC)C=CN1 | C11H16N4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-{2-[2-(dimethylamino-methyleneamino)-pyridine-4-carbonyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzene sulfonamide | 230 mg, 52% yield | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(=O)C1=CC(=NC=C1)N=CN(C)C)C(F)(F)F | C24H23ClF3N5O4S
